US08426437B2
This compound is prepared according to synthesis 25, from 440 mg (0.75 mmol) of 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid (synthesis 2) and 161 mg (1.48 mmol) of 4-hydroxyaniline. After trituration in ethanol/diisopropyl ether mixture, then washing with water and drying, 33 mg (11%) of 8-(4-hydroxy-phenylsulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-ethyl carboxylate is obtained in the form of a white solid.

reactant | 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 0.75 mmol, 440 mg | ClS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O | C12H7ClN2O5S
reactant | 4-hydroxyaniline | 1.48 mmol, 161 mg | OC1=CC=C(N)C=C1 | C6H7NO
product | 8-(4-hydroxy-phenylsulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-ethyl carboxylate | 33 mg, 11% | OC1=CC=C(C=C1)NS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3.C(C)C(=O)[O-] | InChI=1S/C17H13N3O4S.C3H6O2/c21-11-3-1-10(2-4-11)20-25(23,24)12-5-6-15-14(9-12)13-7-8-18-16(13)17(22)19-15;1-2-3(4)5/h1-9,18,20-21H,(H,19,22);2H2,1H3,(H,4,5)/p-1
